### PR TITLE
[Merged by Bors] - feat(Algebra/Order): ArchimedeanClass ball

### PR DESCRIPTION
**Pull request by wwylele**
Part of #27043  (Hahn embedding theorem). For concepts in this part, I don't find good names from literature, so I took inspiration from #27451 (`Valuation.ball`) and `Metric.ball` / `Metric.closedBall` (`ArchimedeanClass M` actually becomes a `Valuation` when `M` is a ring so these names make sense).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 1]
```diff
@@ -451,4 +461,183 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+with a junk value `⊥` assigned to the empty set. -/
+@[to_additive "Extend `ArchimedeanClass.subgroup'` to any `UpperSet`
+with a junk value `⊥` assigned to the empty set."]
+noncomputable
+def subgroup (s : UpperSet (MulArchimedeanClass M)) : Subgroup M :=
+  open Classical in
+  if hs : s = ⊤ then
+    ⊥
+  else
+    subgroup' hs
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: Is there any value in having `subgroup'` given that it's always equal to `subgroup` when defined?

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 2]
```diff
@@ -451,4 +461,183 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+variable (M) in
+@[to_additive]
+theorem subgroup_antitone : Antitone (subgroup (M := M)) := by
+  intro s t hst
+  obtain hs | rfl := ne_or_eq s ⊤
+  · obtain ht | rfl := ne_or_eq t ⊤
+    · exact ((subgroup_strictAntiOn M).le_iff_le
+        (Set.mem_Iio.mpr ht.lt_top) (Set.mem_Iio.mpr hs.lt_top)).mpr hst
+    · simp
+  · rw [eq_top_iff.mpr hst]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: Can this go before `ballSubgroup`, maybe?

File: Mathlib/Algebra/Order/Module/Archimedean.lean [hunk 3]
```diff
@@ -0,0 +1,149 @@
...
+      simp_rw [mem_addSubgroup_iff hs]
+      intro ha
+      obtain _ | _ := subsingleton_or_nontrivial K
+      · rw [Subsingleton.eq_zero k]
+        simpa using (IsUpperSet.top_mem s.upper).mpr <| UpperSet.coe_nonempty.mpr hs
+      · obtain ⟨n, hn⟩ := Archimedean.arch |k| (show 0 < 1 by simp)
+        refine s.upper (mk_le_mk.mpr ⟨n, ?_⟩) ha
+        have : n • |a| = (n • (1 : K)) • |a| := by rw [smul_assoc, one_smul]
+        rw [this, abs_smul]
+        exact smul_le_smul_of_nonneg_right hn (by simp)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Module/Archimedean.lean]: The line of sight rule in usual programming says that the main branch of a function should remain unindented. I find this very useful for proofs also:
```suggestion
    obtain rfl | hs := eq_or_ne s ⊤
    · aesop
    change a ∈ addSubgroup s → k • a ∈ addSubgroup s
    simp_rw [mem_addSubgroup_iff hs]
    intro ha
    obtain _ | _ := subsingleton_or_nontrivial K
    · rw [Subsingleton.eq_zero k]
      simpa using (IsUpperSet.top_mem s.upper).mpr <| UpperSet.coe_nonempty.mpr hs
    obtain ⟨n, hn⟩ := Archimedean.arch |k| (show 0 < 1 by simp)
    refine s.upper (mk_le_mk.mpr ⟨n, ?_⟩) ha
    have : n • |a| = (n • (1 : K)) • |a| := by rw [smul_assoc, one_smul]
    rw [this, abs_smul]
    exact smul_le_smul_of_nonneg_right hn (by simp)
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: I don't use `subgroup'` outside of this file. It is just that I want to separate mathematically interesting definition from the "junk value branching". I also remember seeing this pattern in mathlib, (like [this](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/FDeriv/Defs.html#fderivWithin), though I guess one can argue that DifferentiableWithinAt itself is useful)

Suppose I unfold the `subgroup'` definition here, what is the preferred syntax to next a struct definition in `if`? Is it like
```
  else Subgroup {
     carrier := ...
  } 
```
?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Maybe what you want to be doing is defining `subsemigroup` as the preimage for all `s`, then do
```
def subgroup (s : UpperSet (MulArchimedeanClass M)) : Subgroup M :=
  if hs : s = ⊤ then
    ⊥
  else {
    subsemigroup s with
    one_mem' := sorry
  }
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 4]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
 
 end LiftHom
 
+/-- Given a `UpperSet` of `MulArchimedeanClass`,
+all group elements belonging to these classes form a subsemigroup.
+This is not yet a subgroup because it doesn't contain the identity if s = ⊤. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
This is not yet a subgroup because it doesn't contain the identity if `s = ⊤`. -/
```
Same everywhere below

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 5]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+      rw [subsemigroup, Set.mem_preimage]
+      obtain ⟨u, hu⟩ := UpperSet.coe_nonempty.mpr hs
+      simpa using s.upper (by simp) hu
+    inv_mem' := by simp [subsemigroup]
+  }
+
+variable {s : UpperSet (MulArchimedeanClass M)}
+
+@[to_additive]
+theorem subgroup_eq_of_ne_top (hs : s ≠ ⊤) : (subgroup s : Set M) = subsemigroup s := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
theorem subgroup_eq_subsemigroup_of_ne_top (hs : s ≠ ⊤) : (subgroup s : Set M) = subsemigroup s := by
```
or
```suggestion
theorem subgroup_of_ne_top (hs : s ≠ ⊤) : (subgroup s : Set M) = subsemigroup s := by
```
or maybe even turn the lemma around? We are trying to encourage people to use `subgroup` over `subsemigroup`

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 6]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+
+variable (M) in
+@[to_additive (attr := simp)]
+theorem subgroup_eq_bot : subgroup (M := M) ⊤ = ⊥ := by
+  simp [subgroup]
+
+@[to_additive]
+theorem mem_subgroup_iff (hs : s ≠ ⊤) : a ∈ subgroup s ↔ mk a ∈ s := by
+  rw [← SetLike.mem_coe, subgroup_eq_of_ne_top hs]
+  exact Set.mem_preimage
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
  simp [subgroup, hs]
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 7]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+  simpa [mk_surjective, subsemigroup] using heq
+
+variable (M) in
+@[to_additive]
+theorem subgroup_antitone : Antitone (subgroup (M := M)) := by
+  intro s t hst
+  obtain hs | rfl := ne_or_eq s ⊤
+  · obtain ht | rfl := ne_or_eq t ⊤
+    · exact ((subgroup_strictAntiOn M).le_iff_le
+        (Set.mem_Iio.mpr ht.lt_top) (Set.mem_Iio.mpr hs.lt_top)).mpr hst
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
    · rwa [(subgroup_strictAntiOn M).le_iff_le ht.lt_top hs.lt_top]
```
(untested)

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 8]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+    · simp
+  · rw [eq_top_iff.mpr hst]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
  obtain rfl | hs := eq_or_ne s ⊤
  · rw [eq_top_iff.mpr hst]
  obtain rfl | ht := eq_or_ne t ⊤
  · simp
  exact ((subgroup_strictAntiOn M).le_iff_le
    (Set.mem_Iio.mpr ht.lt_top) (Set.mem_Iio.mpr hs.lt_top)).mpr hst
```
once again, showing the main branch of the proof

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 9]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+noncomputable
+abbrev closedBallSubgroup (A : MulArchimedeanClass M) := subgroup (UpperSet.Ici A)
+
+@[to_additive]
+theorem mem_ballSubgroup_iff {a : M} {A : MulArchimedeanClass M} (hA : A ≠ ⊤) :
+    a ∈ ballSubgroup A ↔ A < mk a := by
+  have : UpperSet.Ioi A ≠ ⊤ := by
+    contrapose! hA
+    rw [UpperSet.ext_iff] at hA
+    simpa using hA
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
  have : UpperSet.Ioi A ≠ ⊤ := by simpa
```
and if that doesn't work then please add a simp lemma!

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 10]
```diff
@@ -451,4 +461,185 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+  simp [mem_subgroup_iff this]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: Possibly you won't even need anything here:
```suggestion
  simp [mem_subgroup_iff]
```
You could even make `mem_subgroup_iff` simp to get to
```suggestion
  simp
```

File: Mathlib/Algebra/Order/Module/Archimedean.lean
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Module/Archimedean.lean:1]: Can you move this to a new PR? The first file is pretty big to review already 😅

**Comment by wwylele** [comment]
Removed the module part from the PR and addressed the comments. It seems that I hit some unknown error in CI, so I rebased on latest master branch

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 11]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+noncomputable
+abbrev closedBallSubgroup (A : MulArchimedeanClass M) := subgroup (UpperSet.Ici A)
+
+@[to_additive]
+theorem mem_ballSubgroup_iff {a : M} {A : MulArchimedeanClass M} (hA : A ≠ ⊤) :
+    a ∈ ballSubgroup A ↔ A < mk a := by
+  simp [hA]
+
+@[to_additive]
+theorem mem_closedBallSubgroup_iff {a : M} {A : MulArchimedeanClass M} :
```
Comment (wwylele) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: This is no longer `@[simp]` because it can be proven with existing simp lemmas. It is here only for documentation purpose.

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 12]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+  obtain rfl | ht := eq_or_ne t ⊤
+  · simp
+  rwa [(subgroup_strictAntiOn M).le_iff_le ht.lt_top hs.lt_top]
+
+/-- An open ball defined by `MulArchimedeanClass.subgroup` of `UpperSet.Ioi A`.
+For `A = ⊤`, we assign the junk value `⊥`. -/
+@[to_additive "An open ball defined by `ArchimedeanClass.addSubgroup` of `UpperSet.Ioi A`.
+For `A = ⊤`, we assign the junk value `⊥`. "]
+noncomputable
+abbrev ballSubgroup (A : MulArchimedeanClass M) := subgroup (UpperSet.Ioi A)
```
Comment (alreadydone) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: It's a bit confusing to use an uppercase letter for an element, which is usually used for types. Why not use `{m : M} (c : MulArchimedeanClass M)`?

Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: I have been using `(A : MulArchimedeanClass M) (a : M) (h : mk a = A)` throughout the file. I don't quite remember how I chose this, but maybe I already committed to it so I should make it consistent?

Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Oh, it turns out a lot of `(A : MulArchimedeanClass M)` have gone from previous refactoring, so maybe I should change this

File: Mathlib/Order/UpperLower/Principal.lean [hunk 13]
```diff
@@ -75,6 +75,10 @@ nonrec theorem Ici_bot [OrderBot α] : Ici (⊥ : α) = ⊥ :=
 nonrec theorem Ioi_top [OrderTop α] : Ioi (⊤ : α) = ⊤ :=
   SetLike.coe_injective Ioi_top
 
+@[simp]
+theorem Ioi_eq_top_iff {α : Type*} [PartialOrder α] [OrderTop α] {a : α} : Ioi a = ⊤ ↔ a = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Order/UpperLower/Principal.lean]:
```suggestion
theorem Ioi_eq_top {α : Type*} [PartialOrder α] [OrderTop α] {a : α} : Ioi a = ⊤ ↔ a = ⊤ := by
```
and can you move it to the `PartialOrder` section just below? Same for `Iio`

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 14]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+@[to_additive]
+theorem nontrivial (hgrade : IsGradeSubgroup c G) (h : c ≠ ⊤) : Nontrivial G :=
+  (Subgroup.nontrivial_iff_ne_bot _).mpr (hgrade.eq_bot_iff.ne.mpr h)
+
+@[to_additive]
+theorem le_closedBallSubgroup (hgrade : IsGradeSubgroup c G) : G ≤ closedBallSubgroup c := by
+  simp [← hgrade.sup_eq]
+
+@[to_additive archimedeanClass_eq]
+theorem mulArchimedeanClass_eq (hgrade : IsGradeSubgroup c G) {a : M} (ha : a ∈ G) (h0 : a ≠ 1) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
theorem mulArchimedeanClassMk_eq (hgrade : IsGradeSubgroup c G) {a : M} (ha : a ∈ G) (h0 : a ≠ 1) :
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 15]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+@[to_additive (attr := simp)]
+theorem closedBallSubgroup_top : closedBallSubgroup (M := M) ⊤ = ⊥ := by
+  ext
+  simp
+
+variable (M) in
+@[to_additive]
+theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
+  intro _ _ h
+  exact subgroup_antitone _ <| (UpperSet.Ioi_strictMono _).monotone h
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: Type variable are usually not so necessary as explicit arguments because they can be inferred through unification from both the LHS and RHS. I would say it's innocuous to have it explicit anyway in the first two. However in the third it seems more of an obstacle than truly helpful

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 16]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+
+/-- A subgroup `G` is called a grade at `c` iff
+`ballSubgroup c` and `G` are complements in the lattice under `closedBallSubgroup c` -/
+@[to_additive "A subgroup `G` is called a grade at `c` iff
+`ballAddSubgroup c` and `G` are complements in the lattice under `closedBallAddSubgroup c`"]
+def IsGradeSubgroup (c : MulArchimedeanClass M) (G : Subgroup M) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
def IsGradeSubgroup (c : MulArchimedeanClass M) (G : Subgroup M) : Prop :=
```
just for readability

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 17]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+  Disjoint (ballSubgroup c) G ∧ ballSubgroup c ⊔ G = closedBallSubgroup c
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]: This docstring doesn't teach me anything more than what I can already infer from the Lean code, but what does it *mean* to be a grade?

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 18]
```diff
@@ -451,4 +461,178 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+    mk a = c := by
+  apply le_antisymm
+  · have hA : c ≠ ⊤ := by
+      contrapose! h0
+      rw [hgrade.eq_bot_iff.mpr h0] at ha
+      simpa using ha
+    contrapose! h0 with hlt
+    have ha' : a ∈ ballSubgroup c := (mem_ballSubgroup_iff hA).mpr hlt
+    exact (Subgroup.disjoint_def.mp hgrade.disjoint) ha' ha
+  · simpa using Set.mem_of_subset_of_mem hgrade.le_closedBallSubgroup ha
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
  · simpa using hgrade.le_closedBallSubgroup ha
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 17 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Let me see if I can explain this more in the file level doc to avoid duplicating the explanation for `to_additive`

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 15 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: I am going to remove `variable (M) in` from `ballSubgroup_antitone` as well as from `subgroup_strictAntiOn` and `subgroup_antitone` then

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 17 above)
Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Updated the file doc to provide some motivation. This is also where I'd like suggestions on better names. I named this originally from graded ring, because there are examples where an ordered ring is graded by archimedean classes (This makes more sense after #28179 defines addition on archimedean classes). Though, this is not generally true for all ordered rings, nor for ordered groups, so the name is not really accurate. Other names I have considered are 
 - "summand", as in direct sum. Feels too generic
 - "residue": for an ordered field, this isomorphic to the residue field of the `ArchimedeanClass.addValuation` in #28179. But this is only applicable to ring/field
 - "sphere": not really correct. Sphere usually is the set difference between closedBall and ball, but the one here is isomorphic to a quotient group.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Sorry, I don't get it. Where does this appear in the proof of Hahn's embedding theorem?

Comment (wwylele) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: In https://www.jstor.org/stable/2032549?origin=crossref, this is $K_t$ on page 861 (whereas $H_t$ and $H'_t$ are closed/open balls). In the context of the paper, because the group was already assumed divisible, $K_t$ always exists. I don't assume additional condition yet, so this is only a Prop for now.

In https://www.ams.org/journals/proc/1952-003-06/S0002-9939-1952-0052045-1/, because the proof is done for only ordered real vector space, the "grade" submodule degenerates to one dimensional (thus become basis for finite dimensional spaces). This is $e_t$ on page 979

**Comment by wwylele** [comment]
Rebased and updated to the new to_additive doc string

**Comment by YaelDillies** [comment]
There seems to be a general CI outage. Please complain on Zulip

File: Mathlib/Algebra/Order/Archimedean/Class.lean [hunk 19]
```diff
@@ -452,4 +468,175 @@ theorem liftOrderHom_mk (f : M → α) (h : ∀ a b, mk a ≤ mk b → f a ≤ f
...
+  simp
+
+@[to_additive]
+theorem ballSubgroup_antitone : Antitone (ballSubgroup (M := M)) := by
+  intro _ _ h
+  exact subgroup_antitone <| (UpperSet.Ioi_strictMono _).monotone h
+
+/-- A subgroup `G` is called a grade at `c` iff
+`ballSubgroup c` and `G` are complements in the lattice under `closedBallSubgroup c`. -/
+@[to_additive /--A subgroup `G` is called a grade at `c` iff
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Archimedean/Class.lean]:
```suggestion
@[to_additive /-- A subgroup `G` is called a grade at `c` iff
```

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Sorry, I remain unconvinced by the design, in particular whether it should be a Prop or a definition, or even simply inlined. Do you mind moving it to the PR where it is used?

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Algebra/Order/Archimedean/Class.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Archimedean/Class.lean]: Thanks!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
Can you please merge master and fix the error? Thanks!

bors d+

**Comment by wwylele** [comment]
Apparently I missed a few to_additive doc fix, plus there is a recent rename of `StrictAntiOn.le_iff_ge`. Will merge soon once the fix passes
